* guitar-pickup.sub -- magnetic guitar/bass pickup as a signal source for LTspice
*
* Subckt
*     pickup    OUT GND EMF      EMF-driven coil: inductance with eddy-current loss,
*                                DC resistance, winding capacitance
*     presets PU_<type>, pins OUT GND EMF (see README.md, "Provenance")
*   EMF: the string's induced voltage, applied between EMF and GND by the user (a
*   voltage source: sine, PWL of a plucked string, a .wav file). The pin draws no
*   current (1 Gohm to GND); the voltage is copied in series with the coil.
*   OUT: the hot lead (to volume pot, tone control, cable); GND: the ground lead.
*   Polarity: V(OUT,GND) follows V(EMF,GND) below resonance.
*
* Parameters (SI)
*     L      coil inductance (whole pickup; both coils in series for a humbucker)  (2.5)
*     R      DC resistance                                          [ohm] (6k)
*     C      winding (self) capacitance, across the output          [F]   (110p)
*     Rx     eddy-current resistance (0 = no eddy loss)             [ohm] (500k)
*     kx     fraction of L that the eddy currents damp                     (0.5)
*
* Equations. EMF -> L*(1-kx) -> (L*kx || Rx) -> R -> OUT, C from OUT to GND.
* The split coil with a resistor across one part is H. Lemme's eddy-current circuit
* ("The Secrets of Electric Guitar Pickups", buildyourguitar.com/resources/lemme/,
* Fig. 6): unlike a resistor across the whole coil it also gives the steeper roll-off
* above resonance (the damped part vanishes at high f: L -> L*(1-kx)) and the slight
* drop below it.
*     inductance at low frequency L; unloaded resonance f0 = 1/(2 pi sqrt(L C))
*     with a cable Cc: f0' ~ 1/(2 pi sqrt(L (C + Cc)))   (load R >> w L)
*     peak height set by R, Rx and the load resistance (pots || amp input)
*
* Limits: lumped L and C (no second, distributed resonance), eddy loss by one
* resistor, no magnetic string pull, no aperture/comb filtering of the string position
* (humbucker notches), no hum pickup, no coupling between pickups. See README.md.
*
* Design: Claude / Electrucio, 2026-09-14, for parts-index. Equivalent circuit
* after H. Lemme (above); the same resistor-across-one-coil idea is in
* sources/distorque-audio/raw/humbucker-model.txt. Original text.
*
.subckt pickup OUT GND EMF params: L=2.5 R=6k C=110p Rx=500k kx=0.5
.param k = limit(kx, 0, 0.99)
E1 e GND EMF GND 1
L1 e a {L*(1 - k)} Rser=0
L2 a b {max(L*k, 1n)} Rser=0
Rx a b {if(Rx > 0, Rx, 1T)}
Rdc b OUT {max(R, 1m)}
Cw OUT GND {max(C, 1f)}
Rin EMF GND 1G
.ends pickup

* ==== PRESETS (generated by make_symbols.py from pu_presets.py; edit there) ====
* Each preset takes kx (eddy-damped fraction of L); see pu_presets.py and
* README.md "Provenance" for the source of every number.
*
* Fender Stratocaster (1972): Lemme "Fender US-Strat. (1972)" https://buildyourguitar.com/resources/lemme/table.htm; R: SD 5.8k-6.3k (midpoint); Rx fitted to Lemme's peak height Q = 6.3
.subckt PU_STRAT72 OUT GND EMF params: kx=0.5
X1 OUT GND EMF pickup L=2.2 R=6.05k C=110p Rx=276.7k kx={kx}
.ends PU_STRAT72

* Fender Mexico Stratocaster: Lemme "Fender Mexico Strat." https://buildyourguitar.com/resources/lemme/table.htm; R: SD 5.8k-6.3k (midpoint, Fender Strat); Rx fitted to Lemme's peak height Q = 3.1
.subckt PU_STRAT_MEX OUT GND EMF params: kx=0.5
X1 OUT GND EMF pickup L=2.8 R=6.05k C=60p Rx=66.25k kx={kx}
.ends PU_STRAT_MEX

* Fender Telecaster bridge: Lemme "Fender Telecaster Bridge" https://buildyourguitar.com/resources/lemme/table.htm; R: SD Telecaster lead 6.2k-6.6k (midpoint); Rx fitted to Lemme's peak height Q = 3.7
.subckt PU_TELE_BRIDGE OUT GND EMF params: kx=0.5
X1 OUT GND EMF pickup L=2.9 R=6.4k C=160p Rx=91.39k kx={kx}
.ends PU_TELE_BRIDGE

* Gibson P-90: Lemme "Gibson P90" https://buildyourguitar.com/resources/lemme/table.htm; R: SD Gibson P-90 8.6k; Rx fitted to Lemme's peak height Q = 2.9
.subckt PU_P90 OUT GND EMF params: kx=0.5
X1 OUT GND EMF pickup L=6.6 R=8.6k C=95p Rx=86.28k kx={kx}
.ends PU_P90

* Seymour Duncan '59 humbucker (PAF type): Lemme "Seymour Duncan 59" https://buildyourguitar.com/resources/lemme/table.htm; R: SD59 neck 7.60k (bridge 8.2k); Rx fitted to Lemme's peak height Q = 2.6  (Lemme does not say neck or bridge; the neck DCR is used)
.subckt PU_SD59 OUT GND EMF params: kx=0.5
X1 OUT GND EMF pickup L=5 R=7.6k C=120p Rx=58k kx={kx}
.ends PU_SD59

* Fender Jazz Bass: Lemme "Fender Jazz Bass" https://buildyourguitar.com/resources/lemme/table.htm; R: SD Fender Jazz Bass 8.5k; Rx fitted to Lemme's peak height Q = 3.9
.subckt PU_JAZZBASS OUT GND EMF params: kx=0.5
X1 OUT GND EMF pickup L=3.6 R=8.5k C=150p Rx=129.2k kx={kx}
.ends PU_JAZZBASS

* Fender Precision Bass: Lemme "Fender Precision Bass" https://buildyourguitar.com/resources/lemme/table.htm; R: SD Fender Precision Bass 10.6k; Rx fitted to Lemme's peak height Q = 5.4  (Lemme's 15 pF winding capacitance is unusually low but used as published)
.subckt PU_PBASS OUT GND EMF params: kx=0.5
X1 OUT GND EMF pickup L=6 R=10.6k C=15p Rx=341.6k kx={kx}
.ends PU_PBASS
